US04889855
A mixture of 0,5 g (2,1 mmol) 1,2-diaminonaphthalene-5-sulphonic acid and 0,75 g (5,8 mmol) oxalic acid dihydrate in 25 ml 4N hydrochloric acid was refluxed for 4 h. After cooling to 25° C., the precipitate was filtered off and washed with 5 ml 4N hydrochloric acid and 5 ml ice-cooled water. The crude product was dissolved in 15 ml 4N sodium hydroxide, and then reprecipitated with 4N hydrochlorid acid to give 0,35 g (57%) of 2,3-dihydroxy-benzo(f)quinoxaline-7-sulphonic acid.

reactant | 1,2-diaminonaphthalene-5-sulphonic acid | 2,1 mmol, 0,5 g | NC1=C(C=CC=2C(=CC=CC12)S(=O)(=O)O)N | C10H10N2O3S
reactant | oxalic acid dihydrate | 5,8 mmol, 0,75 g | O.O.C(C(=O)O)(=O)O
solvent | hydrochloric acid | 4N, 25 ml | Cl | ClH
product | 2,3-dihydroxy-benzo(f)quinoxaline-7-sulphonic acid | 0,35 g, 57% | OC=1C(=NC=2C=CC3=C(C2N1)C=CC=C3S(=O)(=O)O)O | C12H8N2O5S
